US07151105B2
Step 4: 4Bromo-2,6-bis-(2,2,2-trifluoro-ethyl)-pyridine 1-oxide
Acetyl bromide (14 mL) was added to a solution of 4-nitro-2,6-bis-(2,2,2-trifluoro-ethyl)-pyridine 1-oxide (2.7 g, 8.9 mmol) dissolved in AcOH (25 mL). The reaction mixture was heated to 90 ° C. for 5 hours. The reaction was cooled to room temperature, poured into ice, made basic with NaOH pellets and extracted with EtOAc. The organic layers were washed with brine, dried over Na2SO4 and concentrated to a red oil. Purification by flash column chromatography (0% to 30% EtOAc in hexanes) gave the product as a yellow oil (2.18 g, 72%). 1H NMR (400 MHz, CDCl3): δ 3.92 (t, J=10.1 Hz, 4 H), 7.59 (s, 2 H).

reactant | Acetyl bromide | 14 mL | C(C)(=O)Br | C2H3BrO
reactant | 4-nitro-2,6-bis-(2,2,2-trifluoro-ethyl)-pyridine 1-oxide | 8.9 mmol, 2.7 g | [N+](=O)([O-])C1=CC(=[N+](C(=C1)CC(F)(F)F)[O-])CC(F)(F)F | C9H6F6N2O3
reactant | NaOH | [OH-].[Na+]
solvent | AcOH | 25 mL | CC(=O)O | C2H4O2
product | 4Bromo-2,6-bis-(2,2,2-trifluoro-ethyl)-pyridine 1-oxide | 2.18 g, 72% | BrC1=CC(=[N+](C(=C1)CC(F)(F)F)[O-])CC(F)(F)F | C9H6BrF6NO
